US08124617B2
methyl 3-acetamido-5-nitrobenzoate
3-Amino-5-nitrobenzoic acid ([23218-93-1], 0.99 g, 5.05 mmol) was stirred in DCM (20 mL) and pyridine (2 mL) at 0° C. Acetic anhydride (1 mL, 10 mmol) was added. The reaction was stirred overnight. Water (30 mL) was added. A precipitate formed and was collected by filtration. [M+H] calc'd for C10H10N2O5 239; found, 239.

reactant | 3-Amino-5-nitrobenzoic acid | 5.05 mmol, 0.99 g | NC=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H6N2O4
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
reactant | Acetic anhydride | 10 mmol, 1 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Water | 30 mL | O | H2O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-acetamido-5-nitrobenzoate | C(C)(=O)NC=1C=C(C(=O)OC)C=C(C1)[N+](=O)[O-] | C10H10N2O5
